US04192953
(E,Z,E)-7-Hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol
In 60 ml of anhydrous tetrahydrofuran was suspended 9.0 g of (E)-5,9-dimethyl-4,8-decadien-1-yltriphenylphosphonium iodide [R. M. Coates and W. H. Robinson, J. Am. Chem. Soc., 93, 1785 (1971)]. To this suspension was added dropwise the equimolar amount of a n-butyllithium-hexane solution at -5°-0° C. in a stream of argon. After stirring for 30 minutes at room temperature, the reaction mixture was cooled to -78° C., and to this mixture was added dropwise 3.3 g of (E)-4-methyl-6-(2'-tetrahydropyranyloxy)-4-hexenal in 20 ml of anhydrous tetrahydrofuran. The mixture was stirred for 30 minutes and cooled to -50° C., and to this was added the equimolar amount of a sec-butyllithium-pentane solution. The temperature was slowly raised to -10° C., and 1.5 g of dry paraformaldehyde was added at once thereto. The reaction mixture was then stirred at room temperature for 2 hours, and, after addition of ice-water, extracted with n-hexane. From the n-hexane extract was obtained 7.2 g of an oil, which was then chromatographed on the silica gel (20 g) column. The resulting oil (5.8 g) was dissolved in 50 ml of a methanol solution containing 100 mg of p-toluenesulfonic acid, and allowed to stand overnight. The mixture was then, after addition of an aqueous sodium hydrogencarbonate solution, extracted with ether. The crude product obtained from the ethereal layer was further purified by the silica gel (30 g) column chromatography, yielding 1.8 g of the desired product.

reactant | (E)-5,9-dimethyl-4,8-decadien-1-yltriphenylphosphonium iodide | 9.0 g | [I-].C\C(=C/CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\CCC=C(C)C
reactant | sec-butyllithium pentane | C(C)(CC)[Li].CCCCC
reactant | paraformaldehyde | 1.5 g | C=O | CH2O
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (E,Z,E)-7-Hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol | 7.2 g | OC\C(=C/CC/C(=C/CO)/C)\CC\C=C(\CCC=C(C)C)/C | C20H34O2
